US08247401B2
Step B: 2′-Fluoro-4′methyl-5-morpholin-4-ylbiphenyl-3-carboxylic acid
To a solution of methyl 5-bromo-2′-fluoro-4′-methylbiphenyl-3-carboxylate (408.0 mg, 1.263 mmol) in N,N-dimethylacetamide (5 mL) was added morpholine (0.17 mL, 1.9 mmol), cesium carbonate (1.23 g, 3.79 mmol), palladium dibenzylidene acetone (116.0 mg, 0.13 mmol), and 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′biphenyl (XPhos; 90.0 mg, 0.19 mmol) and the mixture heated to 100° C. After 16 h the reaction was allowed to cool to ambient temperature, filtered with methanol, and sodium hydroxide (1M in water; 3.0 mL, 3.0 mmol) was added. After 16 h, reaction was concentrated, acidified with trifluoroacetic acid, and purified by reverse phase HPLC (C-18, 95% water/acetonitrile→20% water/acetonitrile with 0.1% trifluoroacetic acid). Extraction with dichloromethane and 1M aqueous hydrochloric acid gave the title compound. MS 316.1 (M+1).

reactant | methyl 5-bromo-2′-fluoro-4′-methylbiphenyl-3-carboxylate | 1.263 mmol, 408.0 mg | BrC=1C=C(C=C(C1)C1=C(C=C(C=C1)C)F)C(=O)OC | C15H12BrFO2
reactant | morpholine | 1.9 mmol, 0.17 mL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 3.79 mmol, 1.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′biphenyl | 0.19 mmol, 90.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | sodium hydroxide | 3.0 mmol, 1M, 3.0 mL | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
catalyst | palladium dibenzylidene acetone | 0.13 mmol, 116.0 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
solvent | methanol | CO | CH4O
product | 2′-Fluoro-4′methyl-5-morpholin-4-ylbiphenyl-3-carboxylic acid | FC1=C(C=CC(=C1)C)C1=CC(=CC(=C1)N1CCOCC1)C(=O)O | C18H18FNO3
